US04416880
2-Ethylidene-3-oxo-4-chlorobutyric acid ethyl ester.
1 g of piperidine were dropped into a stirred mixture of 82 g of 4-chloroacetoacetic acid and 24 g of acetaldehyde at -20°. After stirring the mixture at -10° to -20° for 7 hours 100 ml of ethyl acetate were added and the solution was subsequently extracted three times with ice-cold 1 n hydrochloric acid and with water. The organic phase was dried over magnesium sulphate and concentrated. The oil which remained was subjected to Kugelrohr-distillation under a high vacuum.

reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
reactant | 4-chloroacetoacetic acid | 82 g | ClCC(CC(=O)O)=O | C4H5ClO3
reactant | acetaldehyde | 24 g | C(C)=O | C2H4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Ethylidene-3-oxo-4-chlorobutyric acid ethyl ester | C(C)OC(C(C(CCl)=O)=CC)=O | C8H11ClO3
